US03951959
rac.-1,3-Dimethoxy-8α-estra-1,3,5(10)-trien-17β-ol
4.5 g. of rac.-1,3-dimethoxy-17β-acetoxy-8α-estra-1,3,5(10)-triene is saponified under N2 in 100 ml. of methanol with 13 ml. of aqueous potash solution (10%) by heating for 1.5 hours under reflux. After cooling, the mixture is gently neutralized with glacial acetic acid, concentrated to half its volume, precipitated into ice water/NaCl, and worked up, thus obtaining 4.1 g. of crude product. By recrystallization of 500 mg. from methanol, 330 mg. of final product is obtained, m.p. 153/153.5°-154°C.

reactant | rac.-1,3-dimethoxy-17β-acetoxy-8α-estra-1,3,5(10)-triene | COC1=CC(=CC=2CC[C@@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)OC(C)=O)OC | C22H30O4
reactant | methanol | CO | CH4O
reactant | potash | C(=O)([O-])[O-].[K+].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | rac.-1,3-Dimethoxy-8α-estra-1,3,5(10)-trien-17β-ol | COC1=CC(=CC=2CC[C@@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)O)OC | C20H28O3
